Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
debridement of right foot ulcer
 
Major Surgical or Invasive Procedure:
plantar exostectomy, ulcer excision ___

ID OPAT Program Intake Note - Order Recommendations
OPAT Diagnosis: right foot MSSA deep wound infection
OPAT Antimicrobial Regimen and Projected Duration:
Agent & Dose: nafcillin 2g IV q4h
Start Date: ___
Projected End Date: ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
WOUND CULTURE (Final ___: 
STAPH AUREUS COAG +.    MODERATE GROWTH. OF TWO COLONIAL 
MORPHOLOGIES.  
SENSITIVITIES: MIC expressed ___ MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

 
History of Present Illness:
___ with PMH significant for DMII c/b bilateral Charcot 
arthropathy and osteolmyelitis who presents from ___ clinic 
with R foot abscess s/p I+D ___ ___ clinic. She also appears 
to have a R lower leg cellulitis. She recalls wound to right 
foot present for a few months and had ___ following her. It was 
healing until approx. ___ days ago when it started draining and 
redness developed again. She denies fever/chills, cough, N/V/D.  

 
___ the ED, initial vitals were: 98.6 63 116/61 18 99% RA  
Exam notable for RLE cellulitis and R foot ___ dressing.  
Labs showed hypokalemia, therapeutic INR.  
Foot XRay was obtained, notable for Charcot deformity by my 
read. Official read pending.  
Received IV Cipro, and potassium repletion.  
Transfer VS were 98.7 76 141/72 17 97% RA  
Podiatry were consulted  
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports above story and long 
history of foot problems/ulcers. She has had several surgeries 
to correct charcot arthropathy bilaterally. She typically has 
___ care for her wounds. She otherwise feels well.  

 
Past Medical History:
PMH: HTN, lipids, DM2, gastric bypass, murmur, severe aortic 
stenosis, bilat TKR, h/o DVT/PE on coagulation w/ warfarin  
 
Social History:
___
Family History:
FH: Daughter alive and healthy. Father died of MI at ___. Mother 
lived to ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs: 100.9 125/76 98 20 97%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP difficult to assess, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, IV/VI LUSB systolic 
murmur  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding, obese with reducible 
hernias  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, 1+ edema with brawny venous 
changes. R leg with warmth, edema, and erythema over shin, 
marked ___ skin marker. Planter surface of R foot with drained 
abscess appearing to probe to bone.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
significant sensation loss ___ sock distribution

DISCHARGE PHYSICAL EXAM
VS: 98.3 110-131/70 50-60s 18 ___ r.a.
GENERAL: well appearing, NAD  
HEENT: MMM, EOMI  
NECK: no JVD, no LAD  
HEART: RRR, no m/r/g  
LUNGS: CTAB, breathing comfortably  
ABDOMEN: soft, nontender, nondistended, no HSM appreciated  
EXT: mild edema bilaterally, R foot wrapped ___ dressing and 
erythema tracking up to mid shin (decreased from admission 
marker line)
SKIN: Warm, dry, intact, no rashes or lesions
NEURO: AOx3, CN2-12 grossly intact 
 
Pertinent Results:
ADMISSION LABS
===============
___ 05:30PM   WBC-8.6 RBC-4.21# HGB-11.9# HCT-36.3# MCV-86 
MCH-28.3# MCHC-32.8 RDW-17.6* RDWSD-55.2*
___ 05:30PM   NEUTS-80.0* LYMPHS-11.7* MONOS-7.4 EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-6.87* AbsLymp-1.00* AbsMono-0.63 
AbsEos-0.01* AbsBaso-0.03
___ 05:30PM   GLUCOSE-327* UREA N-12 CREAT-0.8 SODIUM-133 
POTASSIUM-3.1* CHLORIDE-91* TOTAL CO2-27 ANION GAP-18
___ 05:47PM   LACTATE-2.1*

DISCHARGE LABS
===============
___ 04:51AM BLOOD WBC-7.2 RBC-4.09 Hgb-10.9* Hct-34.5 
MCV-84# MCH-26.7 MCHC-31.6* RDW-18.2* RDWSD-55.0* Plt ___
___ 07:16AM BLOOD ___ PTT-49.6* ___
___ 01:08PM BLOOD Glucose-292* UreaN-9 Creat-0.7 Na-137 
K-3.5 Cl-96 HCO3-27 AnGap-18
___ 01:08PM BLOOD Calcium-8.2* Phos-2.9 Mg-1.8

MICROBIOLOGY
===============
Blood culture ___ NGTD
Blood culture ___ NGTD
Blood culture ___ pending
Blood culture ___ pending
Wound swab ___ -  STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

___

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ 
___. 

PATHOLOGY
===============
 
PATHOLOGY # ___ 
BONE FRAGMENT(S), OTHER THAN PATHOLOGIC FRACTURE 
  
results pending

IMAGING
===============
FOOT XR ___
 
FINDINGS:  
  
AP, lateral, oblique views of the right foot provided.  Sequelae 
of prior 
midfoot tarsectomy and Charcot arthropathy again noted.  There 
is a similar malalignment of the midfoot.  No definite fracture 
is seen.  No soft tissue gas or radiopaque foreign body.  No 
bony destruction concerning for osteomyelitis.  Hammertoe 
deformities of the second through fifth ray noted.  Degenerative 
changes at the first MTP joint again noted. 
  
IMPRESSION:  
  
Severe right foot deformity not significantly changed from prior 
without 
convincing evidence for osteomyelitis. 
  
FOOT XR ___
 
IMPRESSION:  
  
___ comparison with the study of ___, there is little 
overall change ___ this patient following extensive surgical 
procedure and severe Charcot arthropathy.
 
Brief Hospital Course:
___ with history of DMII c/b Charcot arthropathy and 
osteomyelitis presenting with R foot abscess s/p I+D and 
associated R leg cellulitis.
 
# R foot abscess/ulcer with secondary cellulitis + MSSA: Patient 
with long-standing diabetic foot ulcer that recently developed 
more erythema and drainage. She underwent incision and drainage 
at her outpatient podiatry appointment but given extent of 
cellulitis, she as admitted. She had an initial fever of 100.9 
on admission and heart rate of 98, which technically met SIRS 
criteria. R plantar ulcer appears to probe to bone. No 
leukocytosis. No osteomyelitis on imaging, but concern of deep 
tissue involvement has h/o charcot arhtopathy. S/p debridemenet 
___. +MSSA returned ___. Patient had a plantar exostectomy 
and excision of the ulcer on ___ without complications. Pt 
initially on vancomycin, cipro, flagyl but narrowed to nafcillin 
given MSSA data. Pt is to continue nafcillin for a 4 week 
course, possibly ___ut will have outpatient 
infectious disease follow up. Antibiotic course will be dictated 
by pending bone biopsy and thus whether we are treating a deep 
tissue infection or osteomyelitis. Patient had a PICC placed on 
___ and was discharged to rehab. 

Final podiatry recommendations included daily betadine dressings 
and no weight bearing on R foot until follow up ___ ___ 
clinic ___ two weeks.

# Peripheral edema: Patient states she is on furosemide 40mg BID 
for peripheral edema and volume control. She does have a 
significant AS murmur but denies any history of heart failure. 
Patient was continued on furosemide 40mg oral BID. Monitor Is/Os 
given large output yesterday. 
 
# Hx of DVT/PE: Patient on warfarin. Restarted warfarin 
___. Then held warfarin ___ given concern of 
supratherapeutic INR. INR at discharge: 5.0

Pt is to restart warfarin when INR falls below 3.0 with goal 
between ___. Home dose 7.5mg may need to adjusted. Pt is to have 
INR checked q3 days at rehabilitation.

# DMII: hold metformin, ISS ___ house. initially discussed adding 
small basal rate but will continue ISS given that infection is 
likely etiology of increased sugars, now with HbA1c 10.2 and 
likely poor outpt sugar control. Patient had elevated sugars > 
350 initially likely worsened ___ setting of infection. However, 
added back metformin 1000 bid with insulin sliding scale ___ 
addition.

Discussion with possible third agent such as glipizide was 
mentioned but patient will defer this discussion to outpatient 
providers. 

# HLD: Continued pravastatin  
# s/p Gastric Bypass  
- continued MVI, vitamin C, B12, D  

 TRANSITIONAL
=============
-Pt is to have INR followed at rehab, checked every 3 days, and 
warfarin 7.5mg daily to be restarted once INR is therapeutic 
between 2.0 and 3.0
-Podiatry recs: Pt is to non-weight bear on R foot and have 
daily betadine dressings to the foot at rehab until next 
podiatry appointment
-Pt is to follow up with primary care provider regarding 
possibility of additional anti-diabetic medications given that 
HbA1c is 10.2 and while glucose was further elevated ___ setting 
of infection, likely has had chronic poor glucose control. Pt 
was restarted on home metformin 1000 bid and sliding scale at 
discharge.
-Pt is to continue intravenous nafcillin q4h at rehab, will 
continue for at least 4 weeks but given that bone biopsy is 
pending which will determine a possible 6 week course, pt will 
be seen by infectious disease outpatient prior to the completion 
of nafcillin. 
-Decreased Lasix to 40mg PO ___ have potassium 
supplementation ___an follow-up with PCP 
regarding increasing ___ back to 40mg bid.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H 
2. Ascorbic Acid ___ mg PO DAILY 
3. Cyanocobalamin 500 mcg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Furosemide 40 mg PO Q1200 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Multivitamins 1 TAB PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Warfarin 7.5 mg PO DAILY16 
10. Pravastatin 20 mg PO QPM 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Famotidine 20 mg PO BID 
13. Calcium Carbonate 500 mg PO DAILY 

 
Discharge Medications:
1.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin 
2.  Nafcillin 2 g IV Q4H  
3.  Potassium Chloride 40 mEq PO DAILY 
Hold for K >5  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
5.  Famotidine 20 mg PO Q12H  
6.  Ascorbic Acid ___ mg PO DAILY  
7.  Calcium Carbonate 500 mg PO DAILY  
8.  Cyanocobalamin 500 mcg PO DAILY  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  Furosemide 40 mg PO DAILY  
11.  MetFORMIN (Glucophage) 1000 mg PO BID  
12.  Multivitamins 1 TAB PO DAILY  
13.  Pravastatin 20 mg PO QPM  
14.  Vitamin D 1000 UNIT PO DAILY  
15.Outpatient Lab Work
ICD 10: E87.6
Please draw labs on ___
INR, ___ 
Chem10 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Right Charcot deformity with infected plantar ulcer with concern 
for osteomyelitis.
lower extremity cellulitis

SECONDARY DIAGNOSIS
diabetes mellitus
atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___,

You were admitted for your foot infection. You were found to 
have a deep ulcer and overlying skin infection. You were taken 
to the operating room to have debridement of the foot by the 
podiatry team. You were given antibiotics for your infection.

You were also found to have poor glucose control for your 
diabetes and we started you on insulin. Please continue to 
follow-up with your primary care doctor for your 

It was a pleasure taking care of you at ___!

Your ___ Team
 
Followup Instructions:
___